US04639518
5,6-Dimethoxyquinazolin-2,4(1H, 3H)-dione
2-Amino-5,6-dimethoxybenzoic acid (10.5 g, 53.2 mM) was dissolved in glacial acetic acid (100 ml) and potassium cyanate (10.8 g, 133.0 mM) in 120 ml H2O was added gradually and stirred for 2 hours at 60° C. After cooling the reaction mixture to 20° C., sodium hydroxide pellets (78.2 g, 196 mole) were added while maintaining the temperature below 60° C. The reaction mixture was then heated at 90° C. for 45 minutes. Upon cooling in an ice bath, the sodium salt of the product precipitated, was filtered resuspended in H2O (120 ml), acidified (pH 3) with concentrated HCl, cooled, and filtered to give the crude product. Trituration with warm isopropanol afforded (60.8%) of a white solid, mp 266°-268° C.

reactant | 2-Amino-5,6-dimethoxybenzoic acid | 53.2 mM, 10.5 g | NC1=C(C(=O)O)C(=C(C=C1)OC)OC | C9H11NO4
reactant | potassium cyanate | 133.0 mM, 10.8 g | [O-]C#N.[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | H2O | 120 ml | O | H2O
product | 5,6-Dimethoxyquinazolin-2,4(1H, 3H)-dione | 60.8% | COC1=C2C(NC(NC2=CC=C1OC)=O)=O | C10H10N2O4
